Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([H:3])[C:6]([O:5][O:4])=[C:7]([H:8])[H:9]>>[C:1][C@:2]1([H:3])[O:4][O:5][C:6]1=[C:7]([H:8])[H:9],0.84812443852
[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.92267857608
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-1.84745645311
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[H:8]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[H:8],2.99458802266
[O:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([C:3]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],4.0757464404900015
[C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3](=[C:4])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.48991262615
[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],5.20006361764
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][H:5],5.22158342325
[C:2]([H:3])([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.50986545023
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[H:4].[O:1]=[C:2]([O:3])[C:5]([H:6])([H:7])[H:8],4.85193552311
[C:3]#[C:4][O:5][C:6][C:7]([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9],-6.19717703146
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:3],2.02633502947
[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],-2.77473852661
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]#[C:7][H:8],1.60317444501
[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.8089917672
[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.0293203719
[O:1]=[C:2]([H:3])[C:11]([C:8]([C:5]([O:4])([H:6])[H:7])([H:9])[H:10])([H:12])[H:13]>>[O:1][C@@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.459697465869
[H:1][C:2]#[C:3][O:4][C:5][C:7]#[C:8][H:9].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9],-4.44795261606
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-8.35042196007
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.24516631258
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7].[O:8][H:9],6.40902942983
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7],2.11812803868
[H:1][O:2][C@:3]1([H:4])[C:5][O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13].[H:6]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.76084748856
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]>>[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]1,-0.3672168188899999
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.72538384422
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.47523281
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],4.29573199777
[H:13].[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.97694565239
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:10][H:11].[H:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-3.8785217040199993
